US06015812
A) 1-[2-(N-Boc)amino-3-(4-cyanophenyl)propionyl]-2,5-dimethyl-2,5-dihydropyrrole
2.1 g of 2-[(N-Boc)amino]-3-(4-cyanophenyl)propionic acid are mixed with 0.715 g of 2,5-dimethyl-2,5-dihydropyrrole in 10 ml of DMF, 3.9 g of BOP are added and the pH is adjusted to 7 by addition of Et3N. After stirring for 18 hours at RT, the mixture is evaporated to dryness and is then taken up in EtOAc, washed with NaHCO3 solution, with KHSO4 /K2SO4 and with saturated NaCl solution. The resulting solution is dried over Na2SO4 and then evaporated. The residue is taken up in an ether/hexane mixture and then dried over Na2SO4. 1.4 g of the expected compound are obtained.

reactant | 2-[(N-Boc)amino]-3-(4-cyanophenyl)propionic acid | 2.1 g | C(=O)(OC(C)(C)C)NC(C(=O)O)CC1=CC=C(C=C1)C#N | C15H18N2O4
reactant | 2,5-dimethyl-2,5-dihydropyrrole | 0.715 g | CC1NC(C=C1)C | C6H11N
reactant | BOP | 3.9 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | Et3N | CCN(CC)CC | C6H15N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 1-[2-(N-Boc)amino-3-(4-cyanophenyl)propionyl]-2,5-dimethyl-2,5-dihydropyrrole | 1.4 g | C(=O)(OC(C)(C)C)NC(C(=O)N1C(C=CC1C)C)CC1=CC=C(C=C1)C#N | C21H27N3O3
